US09382188B2
F) ethyl 3-(2-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)pyridin-4-yl)propanoate
Under an argon atmosphere, to a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol (164 mg), ethyl 3-(2-(hydroxymethyl)pyridin-4-yl)propanoate (99 mg) and triphenylphosphine (248 mg) in THF (1.5 mL) was added a 40% solution of diethyl azodicarboxylate in toluene (430 μL), and the mixture was stirred for 1 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (72 mg) as a pale-yellow oil.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-ol | 164 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C)(C)C | C18H21FO2
reactant | ethyl 3-(2-(hydroxymethyl)pyridin-4-yl)propanoate | 99 mg | OCC1=NC=CC(=C1)CCC(=O)OCC | C11H15NO3
reactant | triphenylphosphine | 248 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | toluene | 430 μL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-(2-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)pyridin-4-yl)propanoate | 72 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=NC=CC(=C1)CCC(=O)OCC)CC(C)(C)C | C29H34FNO4
